US07125840B2
The preparation of N-(1-acetylcyclohexyl)-4-chlorophenyl-methanesulfonamide, shown below, was performed as described in Pestic. Sci. 1993, 39, 185–192. 4-chloro-phenylmethanesulfonyl chloride (1.37 g, 6 mmol) and ethynylcyclohexylamine (0.73 g, 6 mmol) were stirred in tetrahydrofuran (10 mL) with triethylamine (0.9 mL, 6.6 mmol) for several hours at room temperature. The mixture was diluted with ethyl acetate, washed with water, dried (Na2SO4) and evaporated. Recrystallisation from ethanol yielded 4-chlorophenyl-N-(1-ethynylcyclohexyl)methane-sulfonamide (1.5 g, 80%) as a solid.

reactant | N-(1-acetylcyclohexyl)-4-chlorophenyl-methanesulfonamide | C(C)(=O)C1(CCCCC1)NS(=O)(=O)CC1=CC=C(C=C1)Cl | C15H20ClNO3S
reactant | 4-chloro-phenylmethanesulfonyl chloride | 6 mmol, 1.37 g | ClC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6Cl2O2S
reactant | ethynylcyclohexylamine | 6 mmol, 0.73 g | C(#C)NC1CCCCC1 | C8H13N
reactant | triethylamine | 6.6 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chlorophenyl-N-(1-ethynylcyclohexyl)methane-sulfonamide | 1.5 g, 80% | ClC1=CC=C(C=C1)CS(=O)(=O)NC1(CCCCC1)C#C | C15H18ClNO2S
